US06350749B1
In THF (10 ml) was dissolved 3-ethoxycarbonyl-6-phenyl-4,5,6,7-tetrahydrobenzofuran-4-one (0.71 g). To the solution was added 1N sodium hydroxide (5.0 ml), and the mixture was stirred at room temperature overnight (12 hours). The reaction solution was concentrated under reduced pressure, and to the residue was added potassium hydrogensulfate to make the mixture acidic. To the mixture was added ethyl acetate, and the mixture was subjected to extraction. The upper layer was washed with saturated brine, dried (anhydrous magnesium sulfate) and concentrated under reduced pressure, and the residue was washed with isopropylether to give 3-carboxy-6-phenyl-4,5,6,7-tetrahydrobenzofuran-4-one (0.59 g).

reactant | 3-ethoxycarbonyl-6-phenyl-4,5,6,7-tetrahydrobenzofuran-4-one | 0.71 g | C(C)OC(=O)C1=COC2=C1C(CC(C2)C2=CC=CC=C2)=O | C17H16O4
reactant | sodium hydroxide | 1N, 5.0 ml | [OH-].[Na+]
solvent | THF | 10 ml | C1CCOC1 | C4H8O
product | 3-carboxy-6-phenyl-4,5,6,7-tetrahydrobenzofuran-4-one | 0.59 g | C(=O)(O)C1=COC2=C1C(CC(C2)C2=CC=CC=C2)=O | C15H12O4
